US06645968B2
N-[1-(1H-1,2,3-benzotriazol-1-yl)-3,3-dimethyl-4-pentenyl]-4-chlorobenzamide
A suspension of 4-chlorobenzamide (1.32 g, 8.5 mmol), Example 92A (0.96 g, 8.5 mmol), benzotriazole (1.01 g, 8.5 mmol), and MgSO4 (2.00 g, 16.6 mmol) in toluene (50 mL) was treated with p-toluenesulfonic acid (100 mg, 0.53 mmol). The solution was heated at reflux for 48 hours, cooled to ambient temperature, filtered and concentrated to dryness. The crude material was purified by recrystallization from EtOAc/hexanes to provide 1.301 g of the desired product as a white solid.

reactant | 4-chlorobenzamide | 8.5 mmol, 1.32 g | ClC1=CC=C(C(=O)N)C=C1 | C7H6ClNO
reactant | benzotriazole | 8.5 mmol, 1.01 g | N1N=NC2=C1C=CC=C2 | C6H5N3
reactant | MgSO4 | 16.6 mmol, 2.00 g | [O-]S(=O)(=O)[O-].[Mg+2]
reactant | p-toluenesulfonic acid | 0.53 mmol, 100 mg | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | toluene | 50 mL | C1(=CC=CC=C1)C | C7H8
product | N-[1-(1H-1,2,3-benzotriazol-1-yl)-3,3-dimethyl-4-pentenyl]-4-chlorobenzamide | 1.301 g | N1(N=NC2=C1C=CC=C2)C(CC(C=C)(C)C)NC(C2=CC=C(C=C2)Cl)=O | C20H21ClN4O
